US07745641B2
In a similar manner to Step 1 of Example 233, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0291 g, 0.0630 mmol) was dissolved in acetonitrile (0.650 mL), and the solution was treated with triethylamine (0.0530 mL, 0.378 mmol) and 2,4-dichlorobenzenesulfonyl chloride (0.0436 g, 0.189 mmol) to obtain 4-(2,4-dichlorobenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0232 g. yield 55%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0630 mmol, 0.0291 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.378 mmol, 0.0530 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichlorobenzenesulfonyl chloride | 0.189 mmol, 0.0436 g | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | acetonitrile | 0.650 mL | C(C)#N | C2H3N
product | 4-(2,4-dichlorobenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0232 g, yield 55% | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C33H33Cl2N3O6S
